US07947706B2
1.8 g of 10% palladium-on-charcoal are charged into an autoclave, the atmosphere of which is then made inert with a stream of argon. A solution of 6 g of ethyl 3-(3-nitro-4-pyridyl)-2-oxopropionate in 72 mL of absolute ethanol is added. The reaction medium is then stirred for 3 hours at 20° C. under a pressure of 2 bar of hydrogen. The mixture is then filtered through Celite®. The filtrate is concentrated under reduced pressure and oven-dried at 40° C. to give 4 g of ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate, the characteristics of which are as follows:

reactant | ethyl 3-(3-nitro-4-pyridyl)-2-oxopropionate | 6 g | [N+](=O)([O-])C=1C=NC=CC1CC(C(=O)OCC)=O | C10H10N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 72 mL | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 1.8 g | [Pd] | Pd
product | ethyl 1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 4 g | N1C(=CC=2C1=CN=CC2)C(=O)OCC | C10H10N2O2
